2179-12-07 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - EKG - At [**2179-12-6**] 10:12 PM showing sinus tachycardia
   - received last nebulization at 11pm overnight
 received a treatment
   at 7:30 this am
   - restarted antihypertensives
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-7**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.7
C (96.2
   HR: 78 (78 - 115) bpm
   BP: 141/91(102) {113/74(84) - 146/95(108)} mmHg
   RR: 13 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                    939 mL
                                                                    159 mL
   PO:
             TF:
   IVF:
                                                                    939 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    700 mL
   Urine:
                                                                    700 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    239 mL
                                                                   -542 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   GENERAL: Pleasant, taking full sentences
   HEENT: MMM.  Normocephalic, atraumatic. No conjunctival pallor. No
   scleral icterus. PERRL/EOMI. OP clear. No LAD.
   CARDIAC: Normal rate, regular rhythm. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: + sparse wheezes in the left lower lung field, diffuse wheezes
   in the right lung fields,  good air movement, no retractions/accessory
   muscle with respiration, minimal crackles RML
   ABDOMEN: obese. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ dorsalis pedis, no LE edema, radial pulses +2
   SKIN: Particlly blanching pin point erythematous rash on arms and
   legs.  Eczema on dorsal services of phalanges.
   NEURO: Alert and oriented x3. Appropriate. PERRL. CN 2-12 intact.
   Preserved sensation throughout. 5/5 strength throughout UE and LE. 2+
   reflexes in UE. Gait assessment deferred.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   187 K/uL
   15.7 g/dL
   178 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.4 mEq/L
   14 mg/dL
   106 mEq/L
   138 mEq/L
   45.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2179-12-7**]  04:48 AM
   WBC
   6.2
   Hct
   45.1
   Plt
   187
   Cr
   0.9
   Glucose
   178
   Other labs: Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.0 %,
   Eos:0.6 %, Lactic Acid:3.8 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   58 year old male with a pmh of asthma, HTN, and OSA admitted to the
   [**Hospital Unit Name 10**] for an respiratory distress due to an acute asthma exacerbation
   likely secondary to uri vs. flu vs. pneumonia.
   # Asthma exacerbation - Patient tachypneic to the 30's in the ED,
   recieved 2L NS and 3 nebulizations in the ED.  Exacerbation likely
   secondary to an infectious process based on elevated lactate (2.8),
   fever, chills, cough.  DD includes viral etiology vs CAP.   Given the
   history, physical, and data collected, most likely etiology is viral.
   - Albuterol/Atrovent nebs q2h PRN for asthma, q4 standing
   - Change steroids to 40mg PO q8hrs for asthma
   - Monitor sats - currently on room air and satting 98%. Monitor for
   sats greater than 92%
   - Peak flow spirometer to the bedside
 document peak flow value
   - Restart Advair now for asthma teaching and habit forming
   - Follow-up with Pulmonary clinic
   - Flu shot when pt improves
   # Infection - Likely Respiratory in nature given productive cough,
   fever's, and shortness of breath.  Possible etiologies include URI vs
   flu vs pneumonia. Most likely etiology is viral.
   - Flu swab negative
   - D/C Tamiflu 75mg.
   - Levaquin and ceftriaxone given in the ED - continue for empiric
   treatment of CAP with Levaquin 750 - 5 day course
   - Bolus 1L of NS in the setting of increasing lactate (3.8) and check a
   PM lactate
   - F/u morning chest X-ray to evaluate for pneumonia
   # Tachycardia - Pt's HR was 140 on presentation to the ED.  He received
   4L NS total and his HR is now ranging 70
s-90
s.  Presumably
   tachycardic due to asthma exacerbation likely compounded by infectious
   process and nebulizations.
   - Resolved.
   # HTN - Pt hypertensive at baseline.  Pt normotensive now.
   - Add back home meds today, (valsartan 160 daily and nifedipine ER 30
   daily) as long as the patient remains stable.
   # OSA -
   - Continue home CPAP requirements
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  SSI while on high dose steroids
   Lines:
   18 Gauge - [**2179-12-6**] 09:00 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Wife
   [**Name (NI) 129**] status: Full
   Disposition: Likely call-out today
   10:27

2179-12-07 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2179-12-6**] 10:12 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-7**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.7
C (96.2
   HR: 102 (78 - 115) bpm
   BP: 185/90(112) {113/74(84) - 185/95(112)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                    939 mL
                                                                    172 mL
   PO:
             TF:
   IVF:
                                                                    939 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    700 mL
   Urine:
                                                                    700 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    239 mL
                                                                   -528 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   GENERAL: Pleasant, taking in 3 word to full sentences
   HEENT: slightly dry mm.  Normocephalic, atraumatic. No conjunctival
   pallor. No scleral icterus. PERRL/EOMI. OP clear. No LAD.
   CARDIAC: tachycardic. Normal S1, S2. No murmurs, rubs or [**Last Name (un) 2911**]. JVP=
   difficult to appreciate.
   LUNGS: + rhonchi in right lower lung, good air movement, no
   retractions/accessory muscle with respiration, no crackles, wheezes
   ABDOMEN: obese. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ dorsalis pedis, no LE edema, radial pulses +2
   SKIN: Particlly blanching pin point erythematous rash on arms and
   legs.  Eczema on dorsal services of phalanges.
   NEURO: Alert and oriented x3. Appropriate. PERRL. CN 2-12 intact.
   Preserved sensation throughout. 5/5 strength throughout UE and LE. 2+
   reflexes in UE. Gait assessment deferred.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   187 K/uL
   15.7 g/dL
   178 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.4 mEq/L
   14 mg/dL
   106 mEq/L
   138 mEq/L
   45.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2179-12-7**]  04:48 AM
   WBC
   6.2
   Hct
   45.1
   Plt
   187
   Cr
   0.9
   Glucose
   178
   Other labs: Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.0 %,
   Eos:0.6 %, Lactic Acid:3.8 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   The pt is a 58 yo male with h/o asthma, HTN, and OSA presenting to the
   ED with tachycardia, increased RR, fever to 100.8, and was found to
   have ? PNA on CXR, wheezing c/w asthma exacerbation, and ? influenza.
   .
   #. Tachypnea: Could be due to PNA, influenza, or asthma exacerbation.
   Influenza very likely given story of cough, back ache, and fever.
   -flu swab sent, droplet precautions
   -start Tamiflu
   -tx of ? PNA and ? asthma exacerbation below
   -flu shot prior to discharge
   .
   #. Asthma exacerbation:  Pt with wheezes on exam in ED but no wheezes
   in unit. Pt responded to nebs in ED.
   -combivent nebs (ipatropium/albuterol) q4 hrs standing and q2hrs prn.
   -continue methylprednisone 60mg Iv q 6hrs, got loading dose in ED
   -restart advair after steroid taper
   -check daily peak flow
   -needs f/u in pulm clinic
   -check ABG if RR exceeds to 25
   .
   #. ? CAP: Possible PNA at lung bases although more likely bibasilar
   atelectasis vs bronchovascular croading at lung bases.  No increased
   WBC but lactate 2.8 and pt febrile.  Mild rhonci at right lung base.
   -continue levofloxacin
   -AM CXR after hydration to re-evaluate for infiltrate
   -monitor fever curve and WBC count
   -send sputum cx
   -f/u blood cx
   .
   #. Tachycardia: slightly dry MM on exam, decreased PO intake of fluids
   at home, and low grade fevers.  Tachycardia also could be worsened by
   albuterol nebs. s/p 3L IVF now.
   -NS @500cc/hr x1L
   .
   #. Partially blanching rash on LE and upper arms: Likely due to
   possible viral infection. Nl platelets of 198.
   -monitor daily
   .
   #. FEN:
   -continue NS @ 500cc/hr for 1L
   -check AM electrolytes
   -regular diet
   .
   #. HTN:
   -restart valsartan in AM
   -restart nifedipine later in day
   .
   #. PPX:
   -DVT ppx hep 5000sc TID
   -Bowel regimen with colace and senna prn
   .
   #. ACCESS: 2 large bore PIV's
   .
   #. CODE STATUS: Full code confirmed
   .
   #. EMERGENCY CONTACT: Wife [**Name (NI) 9068**] [**Telephone/Fax (1) 9069**] (cell) not official HCP
   but can make medical decisions if needed
   .
   #. DISPOSITION:  Pending stable
   ICU Care
   Nutrition: reg diet
   Glycemic Control: FS and sliding scale given on steroids
   Lines:
   18 Gauge - [**2179-12-6**] 09:00 PM
   20 Gauge - [**2179-12-6**] 09:00 PM
   Prophylaxis:
   DVT: hep sc 5000 units sc TID
   Stress ulcer: none
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status: Full confirmed with patient
   Disposition: Likely c/o to floor in AM

2179-12-07 10:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight, much improved.
   Reduced frequency of nebulizer treatments overnight.
   No evidence for influenza.
   Rash resolved this AM.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-12-7**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.6
C (96
   HR: 96 (78 - 115) bpm
   BP: 150/64(84) {113/64(84) - 185/95(112)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                    939 mL
                                                                    190 mL
   PO:
             TF:
   IVF:
                                                                    939 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    700 mL
   Urine:
                                                                    700 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    239 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : Scattered, No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: ), Good air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   15.7 g/dL
   187 K/uL
   178 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.4 mEq/L
   14 mg/dL
   106 mEq/L
   138 mEq/L
   45.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2179-12-7**]  04:48 AM
   WBC
   6.2
   Hct
   45.1
   Plt
   187
   Cr
   0.9
   Glucose
   178
   Other labs: Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.0 %,
   Eos:0.6 %, Lactic Acid:3.8 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   58 yo man h/o asthma (poorly controlled and not on regular
   medications), now with acute asthma exacerbation.
   RESPIRATORY DISTRESS -- attributed predominately to asthma
   exacerbation.  [**Month (only) 11**] have early radigraphic signs of pneumonia, but not
   convincing.  Should repeat CXR (current film suboptimal).  Should
   receive influenza vaccine prior to discharge.
   ASTHMA -- acute exacerbation.  Good response to current level of care.
   Follow peak flows.  Continue current care.  Needs asthma education.
   LACTIC ACIDOSIS
 unclear etiology.  No signs sepsis, abnormal
   abdominal exam (no bowel ischemia) or starvation.  Monitor serial
   lactate values.
   OBSTRUCTIVE SLEEP APNEA -- continue CPAP as scheduled.
   FLUIDS -- hypovolemic.  Repleted since admission.  Monitor I/O.
   Maintain balance.
   RASH -- resolved.  Evenascent.  Likely viral exanthem.
   NUTRITIONAL SUPPORT  -- encourage PO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2179-12-6**] 09:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2179-12-08 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2179-12-7**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-8**] 06:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-8**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.9
C (96.6
   HR: 86 (85 - 142) bpm
   BP: 131/77(88) {105/38(56) - 185/95(112)} mmHg
   RR: 14 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,865 mL
                                                                     73 mL
   PO:
                                                                  1,590 mL
             TF:
   IVF:
                                                                  2,275 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    775 mL
   Urine:
                                                                  1,575 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,290 mL
                                                                   -702 mL
   Respiratory support
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   211 K/uL
   14.0 g/dL
   151 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   19 mg/dL
   107 mEq/L
   142 mEq/L
   41.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2179-12-7**]  04:48 AM
                             [**2179-12-8**]  05:27 AM
   WBC
   6.2
   12.9
   Hct
   45.1
   41.6
   Plt
   187
   211
   Cr
   0.9
   0.9
   Glucose
   178
   151
   Other labs: Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.0 %,
   Eos:0.6 %, Lactic Acid:2.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 .H/O ASTHMA
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2179-12-6**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-12-08 07:26:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   Tachycardic to 140s
 not called out yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2179-12-7**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-8**] 06:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-8**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.9
C (96.6
   HR: 86 (85 - 142) bpm
   BP: 131/77(88) {105/38(56) - 185/95(112)} mmHg
   RR: 14 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,865 mL
                                                                     73 mL
   PO:
                                                                  1,590 mL
             TF:
   IVF:
                                                                  2,275 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    775 mL
   Urine:
                                                                  1,575 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,290 mL
                                                                   -702 mL
   Respiratory support
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   GENERAL: NAD. Speaking in full sentences.
   CARDIAC: RRR. Normal S1, S2. No murmurs, rubs or gallops. JVP difficult
   to appreciate [**3-8**] large neck.
   LUNGS: Normal respiratory effort.  Good air movement.  Diffuse
   inspiratory and expiratory wheezes with no rales or rhonchi.
   ABDOMEN: Obese. Soft, NT, ND.
   EXTREMITIES: WWP. No edema.
   SKIN: No rash.
   Labs / Radiology
   211 K/uL
   14.0 g/dL
   151 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   19 mg/dL
   107 mEq/L
   142 mEq/L
   41.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2179-12-7**]  04:48 AM
                             [**2179-12-8**]  05:27 AM
   WBC
   6.2
   12.9
   Hct
   45.1
   41.6
   Plt
   187
   211
   Cr
   0.9
   0.9
   Glucose
   178
   151
   Other labs: Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.0 %,
   Eos:0.6 %, Lactic Acid:2.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   The pt is a 58 yo male with h/o asthma, HTN, and OSA presenting to the
   ED with tachycardia, increased RR, fever to 100.8, and was found to
   have ? PNA on CXR, wheezing c/w asthma exacerbation.
   .
   #. Asthma exacerbation:  Likely exacerbated by viral URI. Currently
   with improved respiratory status.
   -f/u culture data
   -combivent nebs (ipatropium/albuterol) q4 hrs standing and q2hrs prn.
   -change methylprednisolone IV to prednisone PO
   -continue levofloxacin (change to 750 mg PO daily)
   -continue Advair, encourage patient to use this regularly at home
   -monitor peak flow. Patient will need peak flow meter to use at home as
   well.
   -needs f/u in pulm clinic
   -flu shot prior to discharge
   .
   #. Tachypnea: Multifactorial, likely related to infection, volume
   depletion, inhaled bronchodilators.
   -IV fluids PRN (seems euvolemic now)
   -monitor vitals
   .
   #. Elevated lactate: Likely related to infection/volume depletion. DDx
   includes evolving pneumonia.
   -IV fluids PRN
   -trend lactate
   -repeat CXR if lactate trending up or if worsening clinically
   # HTN: Restarted home meds.
   -monitor BP
   # Rash: Likely viral exanthem. Resolved.
   ICU Care
   Nutrition: regular diet, IV fluids as above, replete lytes PRN
   Glycemic Control: FS and sliding scale given on steroids
   Lines:
   18 Gauge - [**2179-12-6**] 09:00 PM
   20 Gauge - [**2179-12-6**] 09:00 PM
   Prophylaxis:
   DVT: hep sc 5000 units sc TID
   Stress ulcer: famotidine while on steroids
   VAP:  none
   Comments:
   Communication:  Comments: Wife [**Name (NI) 9068**] [**Telephone/Fax (1) 9069**] (cell) not official
   HCP but can make medical decisions if needed
   Code status: Full confirmed with patient
   Disposition: Likely call-out to floor today.

2179-12-08 11:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   States to feel improved overall.
   Peak Flow = 450 this AM (personal best= 600)
   Up on side of bed.
   Appetite improved.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-8**] 06:22 AM
   Famotidine (Pepcid) - [**2179-12-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-12-8**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.4
C (95.8
   HR: 97 (85 - 142) bpm
   BP: 131/74(85) {105/38(56) - 149/82(88)} mmHg
   RR: 17 (11 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  3,865 mL
                                                                    330 mL
   PO:
                                                                  1,590 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  2,275 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    775 mL
   Urine:
                                                                  1,575 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,290 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   14.0 g/dL
   211 K/uL
   151 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   19 mg/dL
   107 mEq/L
   142 mEq/L
   41.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2179-12-7**]  04:48 AM
                             [**2179-12-8**]  05:27 AM
   WBC
   6.2
   12.9
   Hct
   45.1
   41.6
   Plt
   187
   211
   Cr
   0.9
   0.9
   Glucose
   178
   151
   Other labs: Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.0 %,
   Eos:0.6 %, Lactic Acid:2.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   58 yo man h/o asthma (poorly controlled and not on regular
   medications), now with acute asthma exacerbation.
   RESPIRATORY DISTRESS -- attributed predominately to asthma
   exacerbation.  [**Month (only) 11**] have early radigraphic signs of pneumonia, but not
   convincing.  Should repeat CXR (current film suboptimal).  Should
   receive influenza vaccine prior to discharge.
   ASTHMA -- acute exacerbation.  Good response to current level of care.
   Follow peak flows.  Continue current care, Advir QID, Albuterol nebs
   q4h, prednisone 40.  Needs asthma education.
   TACHYCARDIA
 intermittent.  In part likely pharmacological
   (b-agoinst).  However, need to consider thromboembolic complications
   plan check d-dimer.  If d-dimer positive, would proceed to CTA to
   assess for pulmonary embolism.
   LACTIC ACIDOSIS
 unclear etiology.  No signs sepsis, abnormal
   abdominal exam (no bowel ischemia) or starvation.  Monitor serial
   lactate values.
   OBSTRUCTIVE SLEEP APNEA -- continue CPAP as scheduled.
   FLUIDS -- hypovolemic.  Repleted since admission.  Monitor I/O.
   Maintain balance.
   RASH -- resolved.  Evenascent.  Likely viral exanthem.
   NUTRITIONAL SUPPORT  -- encourage PO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2179-12-6**] 09:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2179-12-08 13:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Tachycardic to the 140
 responded to fluid bolus
 now HR 80
   100
s and stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-12-8**] 06:22 AM
   Famotidine (Pepcid) - [**2179-12-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-8**] 01:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.5
C (95.9
   HR: 113 (85 - 142) bpm
   BP: 146/94(103) {105/38(56) - 146/94(103)} mmHg
   RR: 25 (11 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  3,865 mL
                                                                    455 mL
   PO:
                                                                  1,590 mL
                                                                    375 mL
   TF:
   IVF:
                                                                  2,275 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                  1,025 mL
   Urine:
                                                                  1,575 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,290 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   GENERAL: Pleasant, taking full sentences
   HEENT: MMM.  Normocephalic, atraumatic. No conjunctival pallor. No
   scleral icterus. PERRL/EOMI. OP clear. No LAD.
   CARDIAC: Normal rate, regular rhythm. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: + sparse wheezes in the left lower lung field, diffuse wheezes
   in the right lung fields,  good air movement, no retractions/accessory
   muscle with respiration, minimal crackles RML
   ABDOMEN: obese. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ dorsalis pedis, no LE edema, radial pulses +2
   SKIN: Particlly blanching pin point erythematous rash on arms and
   legs.  Eczema on dorsal services of phalanges.
   NEURO: Alert and oriented x3. Appropriate. PERRL. CN 2-12 intact.
   Preserved sensation throughout. 5/5 strength throughout UE and LE. 2+
   reflexes in UE. Gait assessment deferred.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   211 K/uL
   14.0 g/dL
   151 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   19 mg/dL
   107 mEq/L
   142 mEq/L
   41.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2179-12-7**]  04:48 AM
                             [**2179-12-8**]  05:27 AM
   WBC
   6.2
   12.9
   Hct
   45.1
   41.6
   Plt
   187
   211
   Cr
   0.9
   0.9
   Glucose
   178
   151
   Other labs: Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.0 %,
   Eos:0.6 %, Lactic Acid:2.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   58 year old male with a pmh of asthma, HTN, and OSA admitted to the
   [**Hospital Unit Name 10**] for an respiratory distress due to an acute asthma exacerbation
   likely secondary to uri vs. flu vs. pneumonia.
   # Asthma exacerbation - Patient tachypneic to the 30's in the ED,
   recieved 2L NS and 3 nebulizations in the ED.  Exacerbation likely
   secondary to an infectious process based on elevated lactate, fever,
   chills, cough.  DD includes viral etiology vs CAP.   Given the history,
   physical, and data collected, most likely etiology is viral.
   - Albuterol/Atrovent nebs q2h PRN for asthma, q4 standing
   - Continue steroids to 40mg PO q8hrs for asthma
   - Monitor sats - currently on room air and satting 98%. Monitor for
   sats greater than 92%
   - Peak flow spirometer to the bedside
 document peak flow value
   - Continue Advair
   - Follow-up with Pulmonary clinic
   - Flu shot when pt improves
   # Infection - Likely Respiratory in nature given productive cough,
   fever's, and shortness of breath.  Possible etiologies include URI vs
   flu vs pneumonia. Most likely etiology is viral.
   - Flu swab negative
   - Levaquin and ceftriaxone given in the ED - continue for empiric
   treatment of CAP with Levaquin 750 - 5 day course
   - Lactate has improved to 2.6
   - Order chest X-ray to evaluate for pneumonia
   # Tachycardia - Pt's HR was 140 on presentation to the ED.  Over the
   past 24 hours he had episodes of sinus tach to the 140
s and responded
   to fluid boluses and his HR is now ranging 80
s-100
s.  Presumably
   tachycardic due to asthma exacerbation likely compounded by infectious
   process and nebulizations.
   - Resolved.
   #Leukocytosis
 likely due to high dose steroids.  The absence of fever
   and other clinical signs of infection, as well as a decreasing lactate
   support this theory.  Will continue to monitor for signs and symptoms
   of infection.
   # HTN - Pt hypertensive at baseline.  Pt normotensive now with
   fluctuating BP over the last 24 hours.
   - Continue home meds (valsartan 160 daily and nifedipine ER 30 daily).
   # OSA -
   - Continue home CPAP requirements
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  SSI while on high dose steroids
   Lines:
   18 Gauge - [**2179-12-6**] 09:00 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Wife
   [**Name (NI) 129**] status: Full
   Disposition: Likely call-out today
   13:09

2179-12-09 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - The patient remained tachycardic with episodes into 130s.
   - Got 1L bolus of NS last PM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2179-12-8**] 08:34 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-9**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-9**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.6
   HR: 77 (69 - 130) bpm
   BP: 135/64(79) {116/58(68) - 146/94(103)} mmHg
   RR: 12 (5 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                  1,905 mL
                  PO:
                                                                    825 mL
                  TF:
   IVF:
                                                                  1,080 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    675 mL
   Urine:
                                                                  1,700 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    205 mL
                                                                   -675 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant, taking full sentences
   HEENT: MMM.  Normocephalic, atraumatic. No conjunctival pallor. No
   scleral icterus. PERRL/EOMI. OP clear. No LAD.
   CARDIAC: Normal rate, regular rhythm. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: + sparse wheezes in the left lower lung field, sparse wheezes in
   the right, overall better aeration, coarse breath sounds, no
   retractions/accessory muscle with respiration, minimal crackles RML
   ABDOMEN: obese. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ dorsalis pedis, no LE edema, radial pulses +2
   SKIN:  Eczema on dorsal services of phalanges.
   NEURO: Alert and oriented x3. Appropriate. PERRL. CN 2-12 intact.
   Preserved sensation throughout. 5/5 strength throughout UE and LE. 2+
   reflexes in UE. Gait assessment deferred.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   214 K/uL
   13.7 g/dL
   133 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.4 mEq/L
   16 mg/dL
   109 mEq/L
   142 mEq/L
   40.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2179-12-7**]  04:48 AM
                             [**2179-12-8**]  05:27 AM
                             [**2179-12-9**]  03:59 AM
   WBC
   6.2
   12.9
   8.5
   Hct
   45.1
   41.6
   40.9
   Plt
   187
   211
   214
   Cr
   0.9
   0.9
   0.8
   Glucose
   178
   151
   133
   Other labs: Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.0 %,
   Eos:0.6 %, D-dimer:740 ng/mL, Lactic Acid:2.6 mmol/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   58 year old man with a PMH of asthma presenting with fever, SOB, cough,
   and wheezing likely due to an asthma exacerbation brought on by viral
   infection.
   # Asthma
 asthma exacerbation likely brought on by viral etiology
   based on sick contact with wife, though [**Name2 (NI) **] cannot be ruled out
   -- Prednisone 15 day taper starting with today
s dose of 40 mg PO
   -- D/C nebs
   -- Start albuterol inhaler
   -- Continue advair
   -- Start combivent nebs
   -- Continue to monitor peak flow  (350 this am, 500 baseline per
   patient)
   -- F/U with pulmonary clinic
   # URI/[**Name2 (NI) **]
 questionable [**Name2 (NI) **] based on chest film, fever, cough, and
   tachypnea
 started on Levaquin for empiric therapy.  Pt is afebrile,
   WBC count is stable.
   -- Continue Levofloxacin (day [**5-9**])
   # Tachycardia
 continued episodes of sinus tach, likely partly due to
   albuterol.  D-Dimer sent and came back elevated (750) though does not
   have any other signs or symptoms of PE.  Will continue to monitor HR
   and vital signs, as well as symptoms.
   -- Monitor vitals
   # Hypertension
 Stable
   -- Continue on Valsartan and Nifedipine
   # OSA
   -- Continue CPAP at night
   ICU Care
   Nutrition:  Regular
   Glycemic Control:  SSI
   Lines:
   18 Gauge - [**2179-12-6**] 09:00 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Wife
   [**Name (NI) 129**] status: Full
   Disposition: Called out
 awaiting bed
   14:34

2179-12-09 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -The patient remained tachycardic with episodes into 140s. UOP was low
   in MetaVision, but turned out urine was being dumped. Got 1L bolus of
   NS this PM.
   - D-dimer was ordered to r/u PE as the cause of tachycardia.  Will CTA
   if positive.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2179-12-8**] 08:34 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-9**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-9**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.6
   HR: 77 (69 - 130) bpm
   BP: 135/64(79) {116/58(68) - 146/94(103)} mmHg
   RR: 12 (5 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                  1,905 mL
                  PO:
                                                                    825 mL
                  TF:
   IVF:
                                                                  1,080 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    675 mL
   Urine:
                                                                  1,700 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    205 mL
                                                                   -675 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant, taking full sentences
   HEENT: MMM.  Normocephalic, atraumatic. No conjunctival pallor. No
   scleral icterus. PERRL/EOMI. OP clear. No LAD.
   CARDIAC: Normal rate, regular rhythm. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: + sparse wheezes in the left lower lung field, diffuse wheezes
   in the right lung fields,  good air movement, no retractions/accessory
   muscle with respiration, minimal crackles RML
   ABDOMEN: obese. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ dorsalis pedis, no LE edema, radial pulses +2
   SKIN: Particlly blanching pin point erythematous rash on arms and
   legs.  Eczema on dorsal services of phalanges.
   NEURO: Alert and oriented x3. Appropriate. PERRL. CN 2-12 intact.
   Preserved sensation throughout. 5/5 strength throughout UE and LE. 2+
   reflexes in UE. Gait assessment deferred.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   214 K/uL
   13.7 g/dL
   133 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.4 mEq/L
   16 mg/dL
   109 mEq/L
   142 mEq/L
   40.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2179-12-7**]  04:48 AM
                             [**2179-12-8**]  05:27 AM
                             [**2179-12-9**]  03:59 AM
   WBC
   6.2
   12.9
   8.5
   Hct
   45.1
   41.6
   40.9
   Plt
   187
   211
   214
   Cr
   0.9
   0.9
   0.8
   Glucose
   178
   151
   133
   Other labs: Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.0 %,
   Eos:0.6 %, D-dimer:740 ng/mL, Lactic Acid:2.6 mmol/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   58 year old male with a pmh of asthma, HTN, and OSA admitted to the
   [**Hospital Unit Name 10**] for an respiratory distress due to an acute asthma exacerbation
   likely secondary to uri vs. flu vs. pneumonia.
   # Asthma exacerbation - Patient tachypneic to the 30's in the ED,
   recieved 2L NS and 3 nebulizations in the ED.  Exacerbation likely
   secondary to an infectious process based on elevated lactate, fever,
   chills, cough.  DD includes viral etiology vs CAP.   Given the history,
   physical, and data collected, most likely etiology is viral.
   - Albuterol/Atrovent nebs q2h PRN for asthma, q4 standing
   - Continue steroids to 40mg PO q8hrs for asthma
   - Monitor sats - currently on room air and satting 98%. Monitor for
   sats greater than 92%
   - Peak flow spirometer to the bedside
 document peak flow value
   - Continue Advair
   - Follow-up with Pulmonary clinic
   - Flu shot when pt improves
   # Infection - Likely Respiratory in nature given productive cough,
   fever's, and shortness of breath.  Possible etiologies include URI vs
   flu vs pneumonia. Most likely etiology is viral.
   - Flu swab negative
   - Levaquin and ceftriaxone given in the ED - continue for empiric
   treatment of CAP with Levaquin 750 - 5 day course
   - Lactate has improved to 2.6
   - Order chest X-ray to evaluate for pneumonia
   # Tachycardia - Pt's HR was 140 on presentation to the ED.  Over the
   past 24 hours he had episodes of sinus tach to the 140
s and responded
   to fluid boluses and his HR is now ranging 80
s-100
s.  Presumably
   tachycardic due to asthma exacerbation likely compounded by infectious
   process and nebulizations.
   - Resolved.
   #Leukocytosis
 likely due to high dose steroids.  The absence of fever
   and other clinical signs of infection, as well as a decreasing lactate
   support this theory.  Will continue to monitor for signs and symptoms
   of infection.
   # HTN - Pt hypertensive at baseline.  Pt normotensive now with
   fluctuating BP over the last 24 hours.
   - Continue home meds (valsartan 160 daily and nifedipine ER 30 daily).
   # OSA -
   - Continue home CPAP requirements
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  SSI while on high dose steroids
   Lines:
   18 Gauge - [**2179-12-6**] 09:00 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Wife
   [**Name (NI) 129**] status: Full
   Disposition: Likely call-out today

2179-12-09 12:46:00 Physician Attending Progress Note
Chief Complaint: Asthma exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to feel improved.
   PF= 350 this AM.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2179-12-8**] 08:34 PM
   Heparin Sodium (Prophylaxis) - [**2179-12-9**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-12-9**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 87 (69 - 130) bpm
   BP: 137/75(90) {116/58(68) - 141/89(96)} mmHg
   RR: 15 (5 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                  1,905 mL
                                                                    360 mL
   PO:
                                                                    825 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,080 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                  1,375 mL
   Urine:
                                                                  1,700 mL
                                                                  1,375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    205 mL
                                                                 -1,015 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   13.7 g/dL
   214 K/uL
   133 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.4 mEq/L
   16 mg/dL
   109 mEq/L
   142 mEq/L
   40.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2179-12-7**]  04:48 AM
                             [**2179-12-8**]  05:27 AM
                             [**2179-12-9**]  03:59 AM
   WBC
   6.2
   12.9
   8.5
   Hct
   45.1
   41.6
   40.9
   Plt
   187
   211
   214
   Cr
   0.9
   0.9
   0.8
   Glucose
   178
   151
   133
   Other labs: Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.0 %,
   Eos:0.6 %, D-dimer:740 ng/mL, Lactic Acid:2.6 mmol/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   58 yo man h/o asthma (poorly controlled and not on regular
   medications), now with acute asthma exacerbation.
   RESPIRATORY DISTRESS
 Continued gradual improvement.  Attributed
   predominately to asthma exacerbation.  [**Month (only) 11**] have early radigraphic signs
   of pneumonia, but not convincing.   Should receive influenza vaccine
   prior to discharge.
   ASTHMA -- acute exacerbation.  Good response to current level of care.
   Peak flow improving.  Continue to follow peak flows.  Continue current
   care, Advir QID, Albuterol nebs q4h, prednisone 40.  Needs asthma
   education.
   TACHYCARDIA
 intermittent, but now resolved.  In part likely
   pharmacological (b-agoinst).
   LACTIC ACIDOSIS
 unclear etiology.  No signs sepsis, abnormal
   abdominal exam (no bowel ischemia) or starvation.  Monitor serial
   lactate values.
   OBSTRUCTIVE SLEEP APNEA -- continue CPAP as scheduled.
   FLUIDS -- hypovolemic.  Repleted since admission.  Monitor I/O.
   Maintain balance.
   RASH -- resolved.  Evenascent.  Likely viral exanthem.
   NUTRITIONAL SUPPORT  -- encourage PO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2179-12-6**] 09:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2179-12-10 08:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-12-10**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 80 (77 - 136) bpm
   BP: 122/79(89) {117/56(69) - 141/83(105)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                    360 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                      0 mL
   Urine:
                                                                  2,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,965 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   GENERAL: Pleasant, taking full sentences
   HEENT: MMM.  Normocephalic, atraumatic. No conjunctival pallor. No
   scleral icterus. PERRL/EOMI. OP clear. No LAD.
   CARDIAC: Normal rate, regular rhythm. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: + sparse wheezes in the left lower lung field, diffuse wheezes
   in the right lung fields,  good air movement, no retractions/accessory
   muscle with respiration, minimal crackles RML
   ABDOMEN: obese. Soft, NT, ND. No HSM
   EXTREMITIES: 2+ dorsalis pedis, no LE edema, radial pulses +2
   SKIN: Particlly blanching pin point erythematous rash on arms and
   legs.  Eczema on dorsal services of phalanges.
   NEURO: Alert and oriented x3. Appropriate. PERRL. CN 2-12 intact.
   Preserved sensation throughout. 5/5 strength throughout UE and LE. 2+
   reflexes in UE. Gait assessment deferred.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   236 K/uL
   14.6 g/dL
   137 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.3 mEq/L
   15 mg/dL
   105 mEq/L
   140 mEq/L
   43.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2179-12-7**]  04:48 AM
                             [**2179-12-8**]  05:27 AM
                             [**2179-12-9**]  03:59 AM
                             [**2179-12-10**]  04:55 AM
   WBC
   6.2
   12.9
   8.5
   7.3
   Hct
   45.1
   41.6
   40.9
   43.1
   Plt
   187
   211
   214
   236
   Cr
   0.9
   0.9
   0.8
   0.9
   Glucose
   178
   151
   133
   137
   Other labs: Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.0 %,
   Eos:0.6 %, D-dimer:740 ng/mL, Lactic Acid:2.6 mmol/L, Ca++:9.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   ASSESSMENT AND PLAN
   58 year old male with a pmh of asthma, HTN, and OSA admitted to the
   [**Hospital Unit Name 10**] for an respiratory distress due to an acute asthma exacerbation
   likely secondary to uri vs. flu vs. pneumonia.
   # Asthma exacerbation - Patient tachypneic to the 30's in the ED,
   recieved 2L NS and 3 nebulizations in the ED.  Exacerbation likely
   secondary to an infectious process based on elevated lactate, fever,
   chills, cough.  DD includes viral etiology vs CAP.   Given the history,
   physical, and data collected, most likely etiology is viral.
   - Albuterol/Atrovent nebs q2h PRN for asthma, q4 standing
   - Continue steroids to 40mg PO q8hrs for asthma
   - Monitor sats - currently on room air and satting 98%. Monitor for
   sats greater than 92%
   - Peak flow spirometer to the bedside
 document peak flow value
   - Continue Advair
   - Follow-up with Pulmonary clinic
   - Flu shot when pt improves
   # Infection - Likely Respiratory in nature given productive cough,
   fever's, and shortness of breath.  Possible etiologies include URI vs
   flu vs pneumonia. Most likely etiology is viral.
   - Flu swab negative
   - Levaquin and ceftriaxone given in the ED - continue for empiric
   treatment of CAP with Levaquin 750 - 5 day course
   - Lactate has improved to 2.6
   - Order chest X-ray to evaluate for pneumonia
   # Tachycardia - Pt's HR was 140 on presentation to the ED.  Over the
   past 24 hours he had episodes of sinus tach to the 140
s and responded
   to fluid boluses and his HR is now ranging 80
s-100
s.  Presumably
   tachycardic due to asthma exacerbation likely compounded by infectious
   process and nebulizations.
   - Resolved.
   #Leukocytosis
 likely due to high dose steroids.  The absence of fever
   and other clinical signs of infection, as well as a decreasing lactate
   support this theory.  Will continue to monitor for signs and symptoms
   of infection.
   # HTN - Pt hypertensive at baseline.  Pt normotensive now with
   fluctuating BP over the last 24 hours.
   - Continue home meds (valsartan 160 daily and nifedipine ER 30 daily).
   # OSA -
   - Continue home CPAP requirements
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  SSI while on high dose steroids
   Lines:
   18 Gauge - [**2179-12-6**] 09:00 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Wife
   [**Name (NI) 129**] status: Full
   Disposition: Likely call-out today

2179-12-10 08:55:00 Physician Attending Progress Note
Chief Complaint: Asthma exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to improve clinically.
   Continues to await availability of medical floor bed (unavailable).
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-12-10**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 80 (77 - 136) bpm
   BP: 122/79(89) {117/56(69) - 141/83(105)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                    360 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                      0 mL
   Urine:
                                                                  2,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,965 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   14.6 g/dL
   236 K/uL
   137 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.3 mEq/L
   15 mg/dL
   105 mEq/L
   140 mEq/L
   43.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2179-12-7**]  04:48 AM
                             [**2179-12-8**]  05:27 AM
                             [**2179-12-9**]  03:59 AM
                             [**2179-12-10**]  04:55 AM
   WBC
   6.2
   12.9
   8.5
   7.3
   Hct
   45.1
   41.6
   40.9
   43.1
   Plt
   187
   211
   214
   236
   Cr
   0.9
   0.9
   0.8
   0.9
   Glucose
   178
   151
   133
   137
   Other labs: Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.0 %,
   Eos:0.6 %, D-dimer:740 ng/mL, Lactic Acid:2.6 mmol/L, Ca++:9.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   58 yo man h/o asthma (poorly controlled and not on regular
   medications), now with acute asthma exacerbation.
   RESPIRATORY DISTRESS
 Continued gradual improvement.  Attributed
   predominately to asthma exacerbation.  [**Month (only) 11**] have early radigraphic signs
   of pneumonia, but not convincing.   Should receive influenza vaccine
   prior to discharge.
   ASTHMA -- acute exacerbation.  Good response to current level of care.
   Peak flow improving.  Continue to follow peak flows.  Continue current
   care, Advir QID, Albuterol nebs q4h, prednisone 40.  Needs asthma
   education.
   TACHYCARDIA
 intermittent, but now resolved.  In part likely
   pharmacological (b-agoinst).  Will assess for pulmonary thromboembolic
   disease with CTA (abnormal D-DImer)
   LACTIC ACIDOSIS
 unclear etiology.  No signs sepsis, abnormal
   abdominal exam (no bowel ischemia) or starvation.  Monitor serial
   lactate values.
   OBSTRUCTIVE SLEEP APNEA -- continue CPAP as scheduled.
   FLUIDS -- hypovolemic.  Repleted since admission.  Monitor I/O.
   Maintain balance.
   RASH -- resolved.  Evenascent.  Likely viral exanthem.
   NUTRITIONAL SUPPORT  -- encourage PO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2179-12-6**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes